US05262540
A mixture of 3-[2-[4,5-di(3-thienyl)-2-oxazolyl]ethyl]phenol (2.00 g, 5.6 mmol), methyl bromoacetate (1.04 g, 6.8 mmol), potassium carbonate (0.94 g, 6.8 mmol), potassium iodide (catalytic amount) and acetonitrile (100 mL) was stirred at reflux under an atmosphere of nitrogen. After 15 hours, the mixture was cooled, filtered and concentrated and the residue subjected to chromatography on a column of silica gel. Elution with a mixture of hexanes and ethyl acetate (7:2) gave methyl [3-[2-[4,5-di(3-thienyl)-2-oxazolyl]ethyl]phenoxy]acetate (1.95 g, 80%) as an oil.

reactant | 3-[2-[4,5-di(3-thienyl)-2-oxazolyl]ethyl]phenol | 5.6 mmol, 2.00 g | S1C=C(C=C1)C=1N=C(OC1C1=CSC=C1)CCC=1C=C(C=CC1)O | C19H15NO2S2
reactant | methyl bromoacetate | 6.8 mmol, 1.04 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 6.8 mmol, 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | methyl [3-[2-[4,5-di(3-thienyl)-2-oxazolyl]ethyl]phenoxy]acetate | 1.95 g, 80% | S1C=C(C=C1)C=1N=C(OC1C1=CSC=C1)CCC=1C=C(OCC(=O)OC)C=CC1 | C22H19NO4S2
